Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with hx of HL presents with 3 days of BRBPR. He describes 
___ episodes of red blood with his bowel movements. This morning 
was the worst with an estimated blood loss of ___ based on 
the comparison to a phlebotomy tube. He has been feeling 
fatigued for 4 days and felt light headed today at work. He has 
no prior history of rectal bleeding or cancer. Last colonoscopy 
was normal ___ years ago. + nausea, no vomiting, stool is light 
brown in color. NO chest pain, SOB, dysuria, blood in the urine, 
back pain, fevers, chills, or palpitations. Pt endorses LLQ 
discomfort as well over the last few days, crampy and 
intermittent. Pt reports feeling dehydrated from not drinking 
much this morning.

Pt had a significant unknown gastric surgery in ___ for what 
the patient describes as his stomach not working.

In the ___ ED:
VS 97.8, 85, 145/86, 16, 99% RA
Guaiac with small amount of frank blood, guaiac positive, light 
brown stool
Labs: BUN/Cr ___
H/H 11.9/35.4->11.5/33.7
Lactate 1.1
UA negative
Received 500 cc NS, atorvastatin 10 mg PO x1
GI consult requested

ROS: 10 point review of systems otherwise negative except as 
listed above
 
Past Medical History:
Pt had a significant unknown gastric surgery in ___ for what 
the patient describes as his stomach not working.
- hyperlipidemia
 
Social History:
___
Family History:
Mother with diverticulitis
 
Physical Exam:
VS: T 98.3, HR 72, BP 140/90, RR 18, 100%RA
GEN: well appearing in NAD
HEENT: MMM OP clear, anicteric sclera
NECK: supple no LAD
HEART: RRR no mrg
LUNG: Lungs CTAB no wheezes or crackles
ABD: soft, mild LLQ tenderness to deep palpation, no rebound or 
guarding
EXT: warm well perfused no pitting edema
SKIN: no rashes noted
NEURO: no focal neuro deficits

Exam on discharge unchanged
 
Pertinent Results:
___ 08:35PM   WBC-4.3 RBC-3.96* HGB-11.5* HCT-33.7* MCV-85 
MCH-29.0 MCHC-34.1 RDW-12.9 RDWSD-39.7
___ 08:35PM   NEUTS-62.1 ___ MONOS-11.3 EOS-3.7 
BASOS-0.9 IM ___ AbsNeut-2.68 AbsLymp-0.94* AbsMono-0.49 
AbsEos-0.16 AbsBaso-0.04
___ 08:35PM   PLT COUNT-187
___ 05:13PM URINE  HOURS-RANDOM
___ 05:13PM URINE  UHOLD-HOLD
___ 05:13PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:13PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:13PM URINE  RBC-2 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 05:13PM URINE  MUCOUS-RARE
___ 04:32PM   LACTATE-1.1
___ 04:24PM   GLUCOSE-90 UREA N-22* CREAT-0.9 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-27 ANION GAP-12
___ 04:24PM   estGFR-Using this
___ 04:24PM   WBC-5.3 RBC-4.10* HGB-11.9* HCT-35.4* MCV-86 
MCH-29.0 MCHC-33.6 RDW-13.0 RDWSD-40.1
___ 04:24PM   NEUTS-67.0 LYMPHS-16.8* MONOS-10.9 EOS-3.8 
BASOS-1.1* IM ___ AbsNeut-3.56 AbsLymp-0.89* AbsMono-0.58 
AbsEos-0.20 AbsBaso-0.06
___ 04:24PM   PLT COUNT-199
___ 04:24PM   ___ PTT-32.0 ___

Last colonoscopy:
Date: ___ Endoscopist(s): ___, 
MD
 
Patient: ___
 Ref. Phys.: ___, MD 
    Assisting Nurse(s)/
 Other Personnel: ___, RN 
Birth Date: ___ ___ years) Instrument: ___ 
ID#: ___   

Medications: additional medication from upper endoscopy today 
Midazolam 2mg 
Fentanyl 100 micrograms 
 
Indications: Screening for colon cancer
Iron deficiency anemia
 

  
Procedure: The procedure, indications, preparation and potential 
complications were explained to the patient, who indicated his 
understanding and signed the corresponding consent forms. A 
physical exam was performed. The patient was administered 
conscious sedation. The patient was placed in the left lateral 
decubitus position and the colonoscope was introduced through 
the rectum and advanced under direct visualization until the 
cecum was reached. The appendiceal orifice and ileo-cecal valve 
were identified. Careful visualization of the colon was 
performed as the colonoscope was withdrawn. The colonoscope was 
retroflexed within the rectum. The procedure was not difficult. 
The quality of the preparation was good. The patient tolerated 
the procedure well. There were no complications. 

Findings: Normal colon to cecum. 
 
Recommendations: follow-up with Dr. ___ as needed
___ colonoscopy in ___ years 

 
Brief Hospital Course:
___ with HL presents with 3 days acute BRBPR with mild LLQ 
tenderness

#BRBPR/GI bleeding with acute blood loss anemia:
Diverticulosis vs AVM vs hemorrhoid.  Colon ca is also a 
possibility.  The patients hematocrit was trended and was 
stable. He was seen by GI who recommended outpatient colonoscopy 
the week after discharge. This will allow time for prep so the 
colonoscopy can also be used for colon cancer screening. The 
patient had no additional bleeding while hospitalized. Iron 
studies were also sent prior to discharge and seem more 
consistent with anemia of chronic inflammation given low iron, 
low TIBC< and normal ferritin although Fe/TIBC 17%. 

Hyperlipdemia:
- Per OMR history- Atorvastatin 10mg was continued

Transitional issues:
- Outpatient colonoscopy will be scheduled
- recommend continued work up for anemia as an outpatient 

 
Medications on Admission:
Statin - unsure which one
vit D unknown dose
MVI daily
vitamin B complex
 
Discharge Medications:
1. Atorvastatin 10 mg PO QPM 
2. Ferrous Sulfate 325 mg PO 2X/WEEK (MO,TH) 
3. Multivitamins 1 TAB PO DAILY 
4. Vitamin B Complex 1 CAP PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BRBPR
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,
It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with bright red blood in 
your stool. You blood levels were checked. You are anemic, but 
your red cell count is close to your recent values. You will 
need a colonoscopy to evaluate your bleeding. You were seen by 
the gastroenterologists who will arrange a colonoscopy for next 
week.  No changes were made to your medications.
 
Followup Instructions:
___